US04605652
N-(1-Azabicyclo[2.2.2]oct-3-yl)-6-methoxy-1H-benzotriazole-5-carboxamide
Following the procedure of Example 22, 6-methoxy-1H-benzotriazole-5-carboxylic acid, 1,1'-carbonyldiimidazole and 3-aminoquinuclidine are reacted to give the title compound.

reactant | 6-methoxy-1H-benzotriazole-5-carboxylic acid | COC=1C(=CC2=C(NN=N2)C1)C(=O)O | C8H7N3O3
reactant | 1,1'-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-aminoquinuclidine | NC1CN2CCC1CC2 | C7H14N2
product | N-(1-Azabicyclo[2.2.2]oct-3-yl)-6-methoxy-1H-benzotriazole-5-carboxamide | N12CC(C(CC1)CC2)NC(=O)C2=CC1=C(NN=N1)C=C2OC | C15H19N5O2
